US04888357
B. β-Cyclobutyl-β-oxo-α-methylcarbamoylpropionitrile
β-Cyclobutyl-β-oxopropionitrile (2.25 g, 18.3 mmoles) [prepared in Step A]was reacted with methyl isocyanate (1.10 g, 19.2 mmoles) according to the general procedure of Example 1, Step B to yield 2.57 g of the title compound as a white solid afater recrysstallization from 50% aqueous ethanol, mp 81°-83° C.

reactant | β-Cyclobutyl-β-oxopropionitrile | 18.3 mmoles, 2.25 g | C1(CCC1)C(CC#N)=O | C7H9NO
reactant | methyl isocyanate | 19.2 mmoles, 1.10 g | CN=C=O | C2H3NO
solvent | ethanol | C(C)O | C2H6O
product | β-Cyclobutyl-β-oxo-α-methylcarbamoylpropionitrile | 2.57 g | C1(CCC1)C(C(C#N)C(NC)=O)=O | C9H12N2O2
